US09302989B2
N-(4-{[1-(2-cyclopentylethyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 429, substituting 2-cyclopentylacetaldehyde for isobutyraldehyde and N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide for N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, Pyridine-d5. Temp=90° C.) δ ppm 8.54-8.58 (m, 2H) 8.08 (s, 1H) 7.72-7.78 (m, 2H) 7.10 (d, J=4.88 Hz, 1H) 7.00-7.04 (m, 2H) 4.82-4.90 (m, 4H) 4.21-4.31 (m, 1H) 2.73-2.83 (m, 2H) 2.34-2.40 (m, 2H) 2.20-2.29 (m, 2H) 1.96-2.03 (m, 2H) 1.67-1.93 (m, 5H) 1.40-1.62 (m, 6H) 1.04-1.17 (m, 2H); MS (APCI(+)) m/e 435 (M+H)+.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | N1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H22N4O2
reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H21N3O
product | N-(4-{[1-(2-cyclopentylethyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | C1(CCCC1)CCN1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C26H34N4O2
